US06403610B1
0.717 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate in 15 cm3 of acetonitrile and 15 cm3 of methanol was heated for 3½ h at a temperature in the region of the reflux temperature, with stirring and under an inert atmosphere, with 0.439 g of 90% 2-chloroethyl cyclopentyl sulfide in the presence of 0.332 g of potassium carbonate and 0.4 g of potassium iodide. After cooling the reaction mixture to a temperature in the region of 20° C., the insoluble material was filtered off and then washed with acetonitrile. The filtrate was evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was purified by chromatography under a nitrogen pressure of 100 kPa on a column of silica gel (particle size 40-63 μm; diameter 3.5 cm; height 45 cm), elution was carried out with a dichloromethane/methanol (95/5 by volume) mixture, and 35-cm3 fractions were collected. Fractions 25 to 45 were combined and then evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 0.48 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclopentylthio)-ethyl]piperidine-3-carboxylate was obtained in the form of a lacquer with a dark-green color.

reactant | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate | 0.717 g | OC(CC[C@H]1[C@H](CNCC1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C20H26N2O4
reactant | 2-chloroethyl cyclopentyl sulfide | 0.439 g | C1(CCCC1)SCCCl | C7H13ClS
reactant | potassium carbonate | 0.332 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.4 g | [I-].[K+]
solvent | acetonitrile | 15 cm3 | C(C)#N | C2H3N
solvent | methanol | 15 cm3 | CO | CH4O
product | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclopentylthio)-ethyl]piperidine-3-carboxylate | 0.48 g | OC(CC[C@H]1[C@H](CN(CC1)CCSC1CCCC1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C27H38N2O4S
